US04098904
A. trans-N,N,N'-Trimethyl-1,2-cyclohexanediamine
A solution of trans-2-dimethylaminocyclohexanol (61.1 g.; 0.427 mole) in 85 ml. of THF was added during 5 minutes to a suspension of NaH (17.97 g.; 0.427 mole of 57% dispersion in mineral oil) in 250 ml. of THF, and the mixture was heated at 95° for 2 hours. It was cooled to 10°, and treated dropwise with methanesulfonyl chloride (48.91 g.; 0.427 mole) during 40 minutes keeping the temperature at 15°.n-Methylbenzylamine (103.48 g.; 0.854 mole distilled) was then added, THF was evaporated and heating continued at 95° for 18 hours. The mixture was treated with 500 ml. of 20% NaOH, heated at 95°, cooled and extracted with ether (6 × 100 ml.). The ether solution was extracted with 10% HCl (6 × 100 ml.), backwashed with ether (discard ether), cooled, basified with 20% NaOH and extracted with ether. The ether extract was washed with H2O, saturated salt solution, dried (MgSO4) and evaporated to give 48.6 g. of crude N,N,N'-trimethyl-N'-benzyl-1,2-cyclohexanediamine as an oil. A solution of this oil (46.6 g.) was hydrogenated in two portions each in 130 ml. of EtOH, with 2.6 g. of 10% Pd-C and 28.6 g. of 70% HClO4 at initial pressure of 51 p.s.i. for 22 hours. The mixture was filtered through Celite, the filtrate was evaporated, cooled in ice and basified with 40% KOH. The resulting thick suspension was extracted with ether (4 × 200 ml.), the ether extract was dried (MgSO4) and evaporated. The product boiled at 87°-88° (15 mm Hg). Vpc-mass spectrum showed that the first peak was 3.4 minutes, was N,N-dimethyl-1,2-cyclohexanediamine and the second peak (4.1 minutes) was the desired N,N,N'-trimethyl-1,2-cyclohexanediamine.

reactant | trans-2-dimethylaminocyclohexanol | 0.427 mole, 61.1 g | CN([C@H]1[C@@H](CCCC1)O)C | C8H17NO
reactant | NaH | 0.427 mole, 17.97 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.427 mole, 48.91 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | n-Methylbenzylamine | 0.854 mole, 103.48 g | CNCC1=CC=CC=C1 | C8H11N
reactant | N,N,N'-trimethyl-N'-benzyl-1,2-cyclohexanediamine | CN(C1C(CCCC1)N(CC1=CC=CC=C1)C)C | C16H26N2
catalyst | Pd-C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | trans-N,N,N'-Trimethyl-1,2-cyclohexanediamine | CN([C@H]1[C@@H](CCCC1)NC)C | C9H20N2
